US04623652
(c) N-Benzyl-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine Hydrochloride
A solution of 3.0 g (0.011 mole) of N-benzylidene-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine hydrochloride in 100 ml of methanol was hydrogenated, at 40 psi, over 0.3 g of 10% Pd-C catalyst until hydrogen uptake ceased (20 min.). The mixture was filtered and concentrated under reduced pressure to provide 3.0 g of crude product. The NMR spectrun was consistent with the assigned structure and the crude product was utilized directly without further purification.

reactant | N-benzylidene-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine hydrochloride | 0.011 mole, 3.0 g | Cl.C(C1=CC=CC=C1)=NCCNS(=O)(=O)N(C)C
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd-C | 0.3 g | [Pd] | Pd
product | N-Benzyl-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine Hydrochloride | 3.0 g | Cl.C(C1=CC=CC=C1)NCCNS(=O)(=O)N(C)C | InChI=1S/C11H19N3O2S.ClH/c1-14(2)17(15,16)13-9-8-12-10-11-6-4-3-5-7-11;/h3-7,12-13H,8-10H2,1-2H3;1H
